US04079130
Preparation of 2-((2-chlorophenyl)azo)-1H-imidazole
Ice water (750 cc) and concentrated hydrochloric acid (250 cc) were stirred and cooled in an ice bath. Upon the addition of 2-chloroaniline (128.0 grams, 1.0 mole) to the cooled reaction mass, a white solid precipitated out. The resulting mixture was stirred at about 0°C as sodium nitrate (69.0 grams, 1.0 mole) was added in portions over a period of about 15 minutes. After the addition was complete the reaction mass was stirred for an additional 15 minutes after which 68.0 grams (1.0 mole) of imidazole were added. The reaction mass was stirred vigorously as anhydrous sodium carbonate (160.0 grams) was added. The mixture was stirred for 3 hours after which the orange crystals were filtered and washed with water. The damp crystals were mixed with dilute hydrochloric acid and stirred at room temperature for about one hour. The mixture was filtered and the insoluble material discarded. The filtrate was made basic with sodium carbonate. The yellow crystals of 2-((2-chlorophenyl)azo)-1H-imidazole was filtered off and washed with water. The product was recrystallized from ethanol. The proposed structure was confirmed by IR and NMR spectra. The melting point was 195°-196° C.

reactant | 2-chloroaniline | 1.0 mole, 128.0 grams | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | sodium nitrate | 1.0 mole, 69.0 grams | [N+](=O)([O-])[O-].[Na+]
reactant | imidazole | 1.0 mole, 68.0 grams | N1C=NC=C1 | C3H4N2
reactant | sodium carbonate | 160.0 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 250 cc | Cl | ClH
product | 2-((2-chlorophenyl)azo)-1H-imidazole | ClC1=C(C=CC=C1)N=NC=1NC=CN1 | C9H7ClN4
